US08026261B2
To a solution of 3-benzyloxy-6-difluoromethyl-2-(1-hydroxy-ethyl)-pyran-4-one (1.30 g, 4.38 mmol), described in step 2 of Example 10, in CH3CN (14 mL) cooled in an ice-salt bath was added a solution of SOCl2 (0.45 mL, 5.44 mmol) in CH3CN (0.5 mL). The reaction mixture was stirred at ice-cold temperature for 9 hrs. The progress of the reaction was monitored by TLC using a mixture of hexanes and EtOAc (1/1, v/v) as eluant. Volatile materials were removed in vacuo, and ice-cold i-PrOH (15 mL) was added, and the mixture was cooled in an ice-salt bath. Then Zn dust (600 mg, 9 mmol) was added followed by concentrated HCl (1.1 mL). After 20 min, the reaction mixture was filtered through a CELITE™ bed, and the filtrate was evaporated to dryness. The residue was taken up in CH2Cl2 (100 mL), and the organic layer was washed with brine (2×30 mL), dried over Na2SO4, filtered and concentrated in vacuo. The residual oil was purified by column chromatography on silica gel using a mixture of hexanes and EtOAc (10/3, v/v) as eluant. Fractions rich in product were combined together, and concentrated to give 3-benzyloxy-6-difluoromethyl-2-ethyl-pyran-4-one (0.62 g) as a yellow oil. HPLC purity (peak area percent) of this material is 99.0% at λ=280 nm using HPLC Method 1 as described above. 1H NMR (400 MHz, DMSO-D6) δ(ppm): 7.30-7.40 (m, 5H), 7.06 (t, J=52.7 Hz, 1H, CF2H), 6.76 (s, 1H), 5.07 (s, 2H), 2.56 (q, J=7.4 Hz, 1H, CH2CH3), 0.97 (t, J=7.5 Hz, 3H, CH2CH3).

reactant | 3-benzyloxy-6-difluoromethyl-2-(1-hydroxy-ethyl)-pyran-4-one | 4.38 mmol, 1.30 g | C(C1=CC=CC=C1)OC1=C(OC(=CC1=O)C(F)F)C(C)O | C15H14F2O4
reactant | SOCl2 | 5.44 mmol, 0.45 mL | O=S(Cl)Cl | Cl2OS
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | HCl | 1.1 mL | Cl | ClH
solvent | CH3CN | 14 mL | CC#N | C2H3N
solvent | CH3CN | 0.5 mL | CC#N | C2H3N
catalyst | Zn | 9 mmol, 600 mg | [Zn] | Zn
product | 3-benzyloxy-6-difluoromethyl-2-ethyl-pyran-4-one | 0.62 g | C(C1=CC=CC=C1)OC1=C(OC(=CC1=O)C(F)F)CC | C15H14F2O3
